US06576643B2
g) Ethyl (±)-10,11-dihydro-3-methoxy-6-methyl-5H-dibenzo[a,d]cycloheptene-10-acetate
According to the procedure of Preparation 10 (f), except substituting ethyl (±)-10,11-dihydro-10-hydroxy-3-methoxy-6-methyl-5H-dibenzo[a,d]cycloheptene-10-acetate for the ethyl (±)-10,11-dihydro-10-hydroxy-3-methoxy-5H-dibenzo[a,d]cycloheptene-10-acetate, the title compound was obtained as a colorless oil following silica gel chromatography (5% EtOAc/hexanes): MS (ES) m/e 325.3 (M+H)+.

reactant | ethyl (±)-10,11-dihydro-10-hydroxy-3-methoxy-6-methyl-5H-dibenzo[a,d]cycloheptene-10-acetate | OC1(CC2=C(CC3=C1C=CC=C3C)C=C(C=C2)OC)CC(=O)OCC | C21H24O4
reactant | ethyl (±)-10,11-dihydro-10-hydroxy-3-methoxy-5H-dibenzo[a,d]cycloheptene-10-acetate | OC1(CC2=C(CC3=C1C=CC=C3)C=C(C=C2)OC)CC(=O)OCC | C20H22O4
product | Ethyl (±)-10,11-dihydro-3-methoxy-6-methyl-5H-dibenzo[a,d]cycloheptene-10-acetate | COC=1C=CC2=C(CC3=C(C(C2)CC(=O)OCC)C=CC=C3C)C1 | C21H24O3
